US04367232
Triethylamine (4.2 ml; 0.03 moles) and a solution of ethyl chloroformate (2.85 ml; 0.03 moles) in anhydrous tetrahydrofuran (35 ml) were added successively to a solution of 2-methoxy-4-amino-5-chlorobenzoic acid (6.04 g; 0.03 moles) in N,N-dimethylformamide (225 ml) whilst maintaining the temperature at -10° C. After stirring at this temperature for 2 hours, a solution of 1-cyclohexylmethyl-4-methylaminopiperidine (6.15 g; 0.03 moles) in anhydrous tetrahydrofuran (35 ml) was added, and the temperature was allowed overnight to reach room temperature. The mixture was poured into an aqueous solution of sodium bicarbonate, extracted with chloroform and the organic layers washed with water. The chloroformic solution was dried (Na2SO4) and the solvent removed in vacuo to give a solid which was recrystallized from a mixture of ethanol and diethyl ether. N-methyl-N-(1-cyclohexylmethylpiperid-4-yl)-2-methoxy-4-amino-5-chlorobenzamide (9.6 g) was obtained.

reactant | Triethylamine | 0.03 moles, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.03 moles, 2.85 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-methoxy-4-amino-5-chlorobenzoic acid | 0.03 moles, 6.04 g | COC1=C(C(=O)O)C=C(C(=C1)N)Cl | C8H8ClNO3
reactant | 1-cyclohexylmethyl-4-methylaminopiperidine | 0.03 moles, 6.15 g | C1(CCCCC1)CN1CCC(CC1)NC | C13H26N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 225 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | N-methyl-N-(1-cyclohexylmethylpiperid-4-yl)-2-methoxy-4-amino-5-chlorobenzamide | 9.6 g | CN(C(C1=C(C=C(C(=C1)Cl)N)OC)=O)C1CCN(CC1)CC1CCCCC1 | C21H32ClN3O2
